US05929291
11.3 g (55 mmol) of 3-methyl-5-(2,2,3-trimethylcyclopent-3-enyl)-pent-3-en-2-one was cyclopropanated with 14.1 g (63 mmol) of trimethylsulfoxonium iodide and 3.08 g (64 mmol) of 50% oil suspension of sodium hydride according to Example 11a giving 5.4 g (45% yield) of 1-[1-methyl-2-(2,2,3-trimethylcyclopent-3-enylmethyl)cyclopropyl]ethanone.

reactant | 3-methyl-5-(2,2,3-trimethylcyclopent-3-enyl)-pent-3-en-2-one | 55 mmol, 11.3 g | CC(C(C)=O)=CCC1C(C(=CC1)C)(C)C | C14H22O
reactant | trimethylsulfoxonium iodide | 63 mmol, 14.1 g | [I-].C[S+](=O)(C)C
reactant | sodium hydride | [H-].[Na+]
product | 1-[1-methyl-2-(2,2,3-trimethylcyclopent-3-enylmethyl)cyclopropyl]ethanone | 5.4 g, 45% yield | CC1(C(C1)CC1C(C(=CC1)C)(C)C)C(C)=O | C15H24O
